US06953787B2
8-Bromo-7-ethoxy-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine
A solution of N-trifluoroacetyl-8-bromo-7-ethoxy-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine (0.010 g, 0.026 mmol) in methanol (1 mL) was treated with 15% aqueous NaOH (1 mL), and stirred overnight at 20 C. The product mixture was diluted with water (3 mL), extracted twice with EtOAc (5 mL), the combined organic phases were washed with brine (3 mL), dried with Na2SO4 and concentrated to give 0.007 g of a clear oil. 1H NMR (400 MHz, CDCl3) d 7.29 (s, 1 H), 6.63 (s, 1 H), 4.07 (q, J=6 Hz, 2 H), 3.03 (m, 3 H), 2.91 (m, 3 H), 2.73 (m, 1 H), 2.26 (bs, 1 H), 1.46 (t, J=6 Hz, 3 H), 1.32 (d, J=7 Hz, 3 H). MS calculated for C15H17BrF3NO2+H: 380, observed: 380.

reactant | N-trifluoroacetyl-8-bromo-7-ethoxy-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.026 mmol, 0.010 g | FC(C(=O)N1CCC2=C(C(C1)C)C=C(C(=C2)OCC)Br)(F)F | C15H17BrF3NO2
reactant | NaOH | 1 mL | [OH-].[Na+]
solvent | methanol | 1 mL | CO | CH4O
solvent | water | 3 mL | O | H2O
product | 8-Bromo-7-ethoxy-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.007 g | BrC=1C(=CC2=C(C(CNCC2)C)C1)OCC | C13H18BrNO
